### ISSUE TITLE
simp usually reduces `Fin n` literals, but not `n` itself

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#5630]
Very conveniently, `simp` knows about `Fin n` literals, and reduces them mod `n`:

```lean
example (n : Fin 25) (P : Fin 25 → Prop): P (26) := by
  simp
  guard_target = P 1
```

It does not do that for `n` itself, though:

```lean
/-- error: simp made no progress -/
#guard_msgs in
example (n : Fin 25) (P : Fin 25 → Prop): P (25) := by
  simp
```
I expect this to simplify to `P 0`.

Note that it also doesn't change 0 to n:
```lean
/-- error: simp made no progress -/
#guard_msgs in
example (n : Fin 25) (P : Fin 25 → Prop): P 0 := by
  simp
```

It would be desirable if `simp` would consistently reduce all `Fin n` literals (with concrete `n`) modulo `n`.

This came up in the equational_theories project.

### Versions

```
"4.12.0-nightly-2024-10-03"
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by b-mehta** [comment]
Out of curiosity, would a similar fix to this one be appropriate for https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/simproc.20for.20Fin as well? Or are the fixes there the correct way to proceed

**Comment by nomeata** [comment]
I'm not an expert on the API design here.  I'd say that whenever a simp rule works it should be used over a simproc. I'm not sure about the conclusion of that thread - did someone find a simp lemma that works?

**Comment by b-mehta** [comment]
> I'd say that whenever a simp rule works it should be used over a simproc.

I think this answers my question! 

> I'm not sure about the conclusion of that thread - did someone find a simp lemma that works?

It is somewhat explicit in that thread, but the addition which works is
```
import Mathlib.Data.Fin.Basic

@[simp]
theorem coe_ofNat_of_lt (m n : ℕ) [NeZero m] (h : n < m) :
    ((no_index (OfNat.ofNat n) : Fin m) : ℕ) = OfNat.ofNat n := by
  rwa [Fin.coe_ofNat_eq_mod, Nat.mod_eq_of_lt]

example : ((3 : Fin 4) : Nat) = 3 := by
  simp
```

**Comment by nomeata** [comment]
If the discrimnation tree behaviour is ok here (I assume it will be tried on every Fin-to-Nat coercion), then yes, looks plausible.
